US04801593
3-(4-Chlorophenyl)-3-(phenylthio)propionic acid, m.pt. 99°-102° (ex cyclohexane) was prepared from benzenethiol and p-chlorocinnamic acid by a method exactly analogous to that used in Example 1(a)

reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
reactant | p-chlorocinnamic acid | ClC1=CC=C(C=CC(=O)O)C=C1 | C9H7ClO2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 3-(4-Chlorophenyl)-3-(phenylthio)propionic acid | ClC1=CC=C(C=C1)C(CC(=O)O)SC1=CC=CC=C1 | C15H13ClO2S
